US06649643B1
Production of 1-Chloro-6-[1-hydroxy-1-(1H-imidazol-4-yl)-2-methylpropyl)-2-naphthamide
In a manner to that described in Example 9-(i), methyl 1-chloro-6-(1-hydroxy-2-methyl-1-(1-trityl-1H-imidazol-4-yl)propyl)-2-naphthoate (2.83 g) was converted to 1-chloro-6-(1-hydroxy-2-methyl-1-(1-trityl-1H-imidazol-4-yl)propyl)-2-naphthoic acid, which was reacted with 1-hydroxybenzotriazole ammonium salt (533 mg) in a similar manner as described in Example 24-(i) to give the titled compound (904 mg) as a colorless powder.

reactant | methyl 1-chloro-6-(1-hydroxy-2-methyl-1-(1-trityl-1H-imidazol-4-yl)propyl)-2-naphthoate | 2.83 g | ClC1=C(C=CC2=CC(=CC=C12)C(C(C)C)(C=1N=CN(C1)C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)O)C(=O)OC | C38H33ClN2O3
reactant | 1-chloro-6-(1-hydroxy-2-methyl-1-(1-trityl-1H-imidazol-4-yl)propyl)-2-naphthoic acid | ClC1=C(C=CC2=CC(=CC=C12)C(C(C)C)(C=1N=CN(C1)C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)O)C(=O)O | C37H31ClN2O3
reactant | 1-hydroxybenzotriazole ammonium salt | 533 mg | [NH4+].ON1N=NC2=C1C=CC=C2
product | 1-Chloro-6-[1-hydroxy-1-(1H-imidazol-4-yl)-2-methylpropyl)-2-naphthamide | 904 mg | ClC1=C(C=CC2=CC(=CC=C12)C(C(C)C)(C=1N=CNC1)O)C(=O)N | C18H18ClN3O2
